US04166131
202.7 g of α-methyl-butyric acid methyl ester are added dropwise to a suspension of 44 g of sodium hydride in 1.3 liters of tetrahydrofuran and the mixture is subsequently boiled at reflux with stirring for 16 hours. A solution of 204 cc of benzyl chloride in 500 cc of tetrahydrofuran is then added dropwise and the reaction mixture is boiled at reflux for a further 70 hours. Working up is effected by removing the tetrahydrofuran by distillation, cooling the mixture, adding 600 cc of petroleum ether and 30 cc of methanol, washing with 300 cc of 5% acetic acid and then with water. The crude, oily α-ethyl-α-methyl-dihydrocinnamic acid methyl ester, obtained after evaporating the solvent, is distilled at 15 mm of Hg and the fraction boiling at 130°-140° is used for the next reaction step without further purification.

reactant | α-methyl-butyric acid methyl ester | 202.7 g | COC(C(CC)C)=O | C6H12O2
reactant | sodium hydride | 44 g | [H-].[Na+]
reactant | benzyl chloride | 204 cc | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | tetrahydrofuran | 1.3 liters | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 cc | O1CCCC1 | C4H8O
product | α-ethyl-α-methyl-dihydrocinnamic acid methyl ester | COC(C(CC1=CC=CC=C1)(C)CC)=O | C13H18O2
